US05891902
Ethyl 3-[bis(4-fluorophenyl)methyl]indole-2-carboxylate
To a solution of 4,4'-difluorobenzhydrol (12.8 g, 58.1 mmol) and ethyl indole-2-carboxylate (10.0 g, 52.9 mmol) in 100 ml of methylene chloride was added methanesulfonic acid (3.4 ml, 52.9 mmol), followed by stirring at room temperature for one hour. Then, 4,4'-difluorobenzhydrol (1.0 g, 4.54 mmol) was further added to the reaction mixture followed by stirring for 1.5 hours to complete the reaction. A 2N aqueous sodium hydroxide solution was added to the reaction solution, and a saturated aqueous solution of ammonium chloride was further added thereto for neutralization followed by extraction with chloroform. The resulting organic layer was washed with a saturated aqueous solution of sodium bicarbonate and a saturated aqueous solution of sodium chloride, and dried over magnesium sulfate, and the solvent was distilled off under reduced pressure to give a crude product. The obtained crude product was recrystallized from ethanol to give 8.4 g (yield: 40%) of the title compound.

reactant | 4,4'-difluorobenzhydrol | 58.1 mmol, 12.8 g | FC1=CC=C(C(C2=CC=C(C=C2)F)O)C=C1 | C13H10F2O
reactant | ethyl indole-2-carboxylate | 52.9 mmol, 10.0 g | N1C(=CC2=CC=CC=C12)C(=O)OCC | C11H11NO2
reactant | methanesulfonic acid | 52.9 mmol, 3.4 ml | CS(=O)(=O)O | CH4O3S
reactant | 4,4'-difluorobenzhydrol | 4.54 mmol, 1.0 g | FC1=CC=C(C(C2=CC=C(C=C2)F)O)C=C1 | C13H10F2O
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | Ethyl 3-[bis(4-fluorophenyl)methyl]indole-2-carboxylate | 8.4 g, yield: 40% | FC1=CC=C(C=C1)C(C1=C(NC2=CC=CC=C12)C(=O)OCC)C1=CC=C(C=C1)F | C24H19F2NO2
